US03971819
A mixture of 3-amino-5-dimethylsulphamyl-4-phenoxy-benzoic acid (1.68 g), benzyl bromide (2 g), and ethanol (15 ml) was refluxed for 5 hours. After cooling, the precipitated ethyl 3-benzylamino-5-dimethylsulphamyl-4-phenoxy-benzoate was isolated and recrystallized from ethanol. After drying in vacuo, the compound was obtained with a melting point of 154-155°C.

reactant | 3-amino-5-dimethylsulphamyl-4-phenoxy-benzoic acid | 1.68 g | NC=1C=C(C(=O)O)C=C(C1OC1=CC=CC=C1)S(N(C)C)(=O)=O | C15H16N2O5S
reactant | benzyl bromide | 2 g | C(C1=CC=CC=C1)Br | C7H7Br
reactant | ethanol | 15 ml | C(C)O | C2H6O
product | ethyl 3-benzylamino-5-dimethylsulphamyl-4-phenoxy-benzoate | C(C1=CC=CC=C1)NC=1C=C(C(=O)OCC)C=C(C1OC1=CC=CC=C1)S(N(C)C)(=O)=O | C24H26N2O5S
